US06156903
Synthesis of ethyl 5-amino-1-(6-amino-3,5-difluoropyridine-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
To 5 ml of acetic acid was added 260 mg of ethyl 1-(6-amino-3,5-difluoropyridine-2-yl)-5-benzylamino-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate together with 50 mg of 10% palladium on carbon, and the mixture was hydrogenated at room temperature for 4 hours. The catalyst was separated by filtration, and the solvent and the like were distilled off under reduced pressure. The procedure of adding 10 ml of ethanol to the residue and concentrating under reduced pressure was repeated twice. The precipitate was dispersed in ethanol, collected by filtration, and washed with ethanol and diisopropylether successively to obtain 160 mg of the title compound as a pale yellow powder.

reactant | ethyl 1-(6-amino-3,5-difluoropyridine-2-yl)-5-benzylamino-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 260 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)NCC1=CC=CC=C1)=O)C(=O)OCC)F)F | C24H17F5N4O3
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | ethyl 5-amino-1-(6-amino-3,5-difluoropyridine-2-yl)-6,7,8-trifluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 160 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1=NC(=C(C=C1F)F)N)C(=O)OCC)=O | C17H11F5N4O3
